USRE028939
A mixture of 22 g. of 4-fluoroaniline, 50 g. of iodine, 25 g. of calcium carbonate, 75 ml. of ether and 75 ml. of water is heated at reflux for 48 hours. The ether is removed by distillation and the excess iodine is destroyed by addition of sodium thiosulfate. Steam distillation and recrystallization from petroleum ether gives 4-fluoro-2-iodoaniline.

reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | iodine | II | I2
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 4-fluoro-2-iodoaniline | FC1=CC(=C(N)C=C1)I | C6H5FIN
